US06545017B1
A solution of tert-butyl 4-aminobutylcarbamate (8.52 g, 45.24 mmol) in N,N-dimethylformamide was added to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (10.00 g, 45.24 mmol) and triethylamine (12.6 mL, 90.5 mmol) in N,N-dimethylformamide (320 mL). The reaction mixture was stirred overnight and then concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The organics were combined, washed with brine and then concentrated under reduced pressure to provide a brown oily residue. This material was purified by flash chromatography (400 mL silica gel, eluting initially with 10% ethyl acetate in hexane and then increasing the gradient to 15% and then to 25%) to provide 8.1 g of tert-butyl 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butylcarbamate as a yellow solid.

reactant | tert-butyl 4-aminobutylcarbamate | 45.24 mmol, 8.52 g | NCCCCNC(OC(C)(C)C)=O | C9H20N2O2
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 45.24 mmol, 10.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | triethylamine | 90.5 mmol, 12.6 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 320 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butylcarbamate | 8.1 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCNC(OC(C)(C)C)=O)C)C | C16H25ClN4O4
